US07498337B2
1-[5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate
5-(2-Fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (1.52 g) was dissolved in methanol (30 mL), a 40% methylamine methanol solution (3.57 g) was added at room temperature and the mixture was stirred for 30 min. Sodium borohydride (523 mg) was added at room temperature and the mixture was stirred for 10 min. 1 mol/L Hydrochloric acid (50 mL) was added and the mixture was stirred for 5 min. The reaction mixture was basified with a saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→7:3) to give a free salt of the title compound as a pale-yellow oil (yield 1.30 g). The obtained free salt (750 mg) was dissolved in ethyl acetate (30 mL), a solution of fumaric acid (278 mg) in methanol (3 mL) was added dropwise at room temperature. After stirring for 30 min, the obtained crystals were collected by filtration, and washed with ethyl acetate to give the title compound as colorless crystals (yield 912 mg, 74%).

reactant | 5-(2-Fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 1.52 g | FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)C=O | C16H11FN2O3S
reactant | methylamine methanol | 3.57 g | CO.CN
reactant | Sodium borohydride | 523 mg | [BH4-].[Na+]
reactant | Hydrochloric acid | 1 mol/L, 50 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 1-[5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate | yield 1.30 g | C(\C=C\C(=O)O)(=O)O.FC1=C(C=CC=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CNC | InChI=1S/C17H16FN3O2S.C4H4O4/c1-19-10-13-9-17(15-6-2-3-7-16(15)18)21(12-13)24(22,23)14-5-4-8-20-11-14;5-3(6)1-2-4(7)8/h2-9,11-12,19H,10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
